US04874544
A slurry is made with 200 g fresh baker's yeast in a solution of 300 g saccharose in 1.6 l fresh water at 30° C., and this slurry is gently agitated at 30° C. After an hour, under strong agitation, 0.15 moles distilled acetoacetic ester are added, and the mixture is gently agitated for 24 hours at 25°-30° C. Subsequently, a solution of 200 g saccharose in 1 l water at 35 deg C. is added by portions. After strongly agitating for one hour, 0.15 moles acetoacetic ester are added once again. The mixture is agitated for 50 hours at 25°-30° C. Then it is suctioned over infusorial earth, and the residue is washed twice, each time with 100 ml water. The combined aqueous phases are saturated with NaCl and are extracted five times, each time with 500 ml ether. After separating and drying the organic phase over Na2SO4, it is concentrated by evaporation in a rotating evaporator down to 50-80 ml. Fractional distillation of the residue yields (S)-(+)-3-hydroxy-butyric acid ethyl ester in a yield amounting to 65-75 percent of theoretical.

reactant | saccharose | 300 g | C([C@@H]1[C@H]([C@@H]([C@H]([C@H](O1)O[C@]2([C@H]([C@@H]([C@H](O2)CO)O)O)CO)O)O)O)O | C12H22O11
solvent | water | 1.6 l | O | H2O
product | (S)-(+)-3-hydroxy-butyric acid ethyl ester | C(C)OC(C[C@H](C)O)=O | C6H12O3
